US09334253B2
A similar procedure to the one reported in EXAMPLE 2 was followed except dichlorodiethylsilane (5.12 g, 32.5 mmol, 1 eq) was used as the substrate along with 2eq each of CF3H and KHMDS to obtain pure diethyl bis(trifluoromethyl)silane 3.2 g, 44% yield. 1H NMR (400 MHz): δ 1.08 (m, CH2), 1.16 (m, CH3); 13C NMR (100.5 MHz): δ-1.10 (s, CH2), 5.55 (s, CH3), 128.6 (qq, 1JC—F=319 Hz, 3.35 Hz, CF3); 19F NMR (376.3 MHz): δ-60.2 (s); 29Si NMR (79.5 MHz): δ-2.43 (sept, 2JSi—F=39.4 Hz, 1 Si).

reactant | dichlorodiethylsilane | 32.5 mmol, 5.12 g, 1 eq | Cl[Si](CC)(CC)Cl | C4H10Cl2Si
reactant | CF3H | 2eq | C(F)(F)F | CHF3
reactant | KHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
product | diethyl bis(trifluoromethyl)silane | 3.2 g, 44% yield | C(C)[Si](C(F)(F)F)(C(F)(F)F)CC | C6H10F6Si
